US07220862B2
and (R)-2-Amino-3-[2-methyl-3-(2-trimethylsilanyl-ethanesulfonyl)-3H-benzoimidazol-5-yl]-propionic acid methyl ester
A methanol (50 mL) suspension of (R)-2-benzyloxycarbonylamino-3-[2-methyl-3-(2-trimethylsilanyl-ethanesulfonyl)-3H-benzoimidazol-5-yl]-propionic acid methyl ester and (R)-2-Benzyloxycarbonylamino-3-[2-methyl-1-(2-trimethylsilanyl-ethanesulfonyl)-1H-benzoimidazol-5-yl]-propionic acid methyl ester (1:1 mixture, 600 mg), and 10% palladium on charcoal (180 mg) was agitated on a Parr apparatus overnight under 40 psi of hydrogen at room temperature. After replacing the hydrogen atmosphere with nitrogen, the mixture was filtered through a pad of celite. Solvents were removed in vacuo to afford the title compound as a tan solid (80%). 1H-NMR (CD3OD, 500 MHz) δ 7.81 (d, J=8.5, 0.5 Hz, 0.5H), 7.70 (s, 0.5H), 7.58 (d, J=8.5 Hz, 0.5H), 7.49 (s, 0.5H), 7.25 (d, J=9.0 Hz, 1H), 3.89 (dd, J=14.0, 6.5 Hz, 1H), 3.75 (s, 1.5H), 3.72 (s, 1.5H), 3.55–3.51 (m, 2H), 3.18 (d, J=6.0 Hz, 1H), 3.22–3.18 (m, 0.5H), 3.14–3.09 (m, 0.5H), 2.81 (s, 1.5H), 2.80 (s, 1.5H), 0.92–0.88 (m, 2H), 0.02 (s, 4.5H), 0.01 (s, 4.5H); 13CNMR (CD3OD, 125 MHz) δ 174.3, 174.1, 153.5, 153.3, 141.7, 140.6, 133.9, 133.82, 133.78, 132.7, 126.5, 126.3, 119.7, 119.0, 114.1, 113.4, 55.6, 51.8, 51.7, 51.6, 40.2, 39.8, 15.83, 15.77, 9.9, −3.07, −3.11. Mass spec.: 398.20 (MH)+.

reactant | (R)-2-benzyloxycarbonylamino-3-[2-methyl-3-(2-trimethylsilanyl-ethanesulfonyl)-3H-benzoimidazol-5-yl]-propionic acid methyl ester | COC([C@@H](CC1=CC2=C(N=C(N2S(=O)(=O)CC[Si](C)(C)C)C)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C25H33N3O6SSi
reactant | (R)-2-Benzyloxycarbonylamino-3-[2-methyl-1-(2-trimethylsilanyl-ethanesulfonyl)-1H-benzoimidazol-5-yl]-propionic acid methyl ester | 600 mg | COC([C@@H](CC1=CC2=C(N(C(=N2)C)S(=O)(=O)CC[Si](C)(C)C)C=C1)NC(=O)OCC1=CC=CC=C1)=O | C25H33N3O6SSi
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 180 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | (R)-2-Amino-3-[2-methyl-3-(2-trimethylsilanyl-ethanesulfonyl)-3H-benzoimidazol-5-yl]-propionic acid methyl ester | 80% | COC([C@@H](CC1=CC2=C(N=C(N2S(=O)(=O)CC[Si](C)(C)C)C)C=C1)N)=O | C17H27N3O4SSi
